US06455521B1
8-Fluoro-12-(piperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (260 mg) was dissolved in toluene (5 ml) and anhydrous acetic acid (230 mg) and triethylamine (375 mg) were added. The mixture was stirred at 80° C. for 30 minutes. The reaction mixture was allowed to cool to room temperature, and extracted with chloroform, washed with water and dried over anhydrous magnesium sulfate. After natural filtration, the solvent was evaporated under reduced pressure and the residue was recrystallized from methanol to give 8-fluoro-12-(4-acetylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine.1/4 hydrate (97 mg).

reactant | 8-Fluoro-12-(piperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 260 mg | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCNCC2)C=C1 | C19H17FN4S
reactant | acetic acid | 230 mg | C(C)(=O)O | C2H4O2
reactant | triethylamine | 375 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 8-fluoro-12-(4-acetylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | FC1=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C(C)=O)C=C1 | C21H19FN4OS
